US06833378B2
2-(4-Chloro-2,6-dimethyl-phenoxy)-4-(1-hydroxymethyl-propylamino)-6-methyl-nicotinic acid methyl ester
A mixture of 4-chloro-2-(4-chloro-2,6-dimethyl-phenoxy)-6-methyl-nicotinic acid methyl ester (9.000 g, 26.45 mmol) and (S)-2-amino-1-butanol (12.7 ml) in 1-methyl-2-pyrrolidinone was heated at 130° C. for 2 hr. then at 100° C. overnight. The mixture cooled to rt and poured into ice-water and diluted with ethyl acetate. The organic layer was separated, washed with water, dried over anhydrous sodium sulfate, filtered, and concentrated to dryness to give 13.6 g of crude product as a light yellow oil. The oil was purified through silica gel column chromatography using chloroform to 2% MeOH in chloroform as eluent to give 6.6839 g (64%) of the title compound as a white glass foam. The glass foam was triturated with hexane to give a white solid. The solid was recrystallized from di-iso-propyl ether to give a white crystals, mp 122.5-124° C. Anal. calc. for C20H25ClN2O4: C, 61.14; H, 6.41; N, 7.13; found: C, 60.98; H, 6.43; N, 6.95.

reactant | 4-chloro-2-(4-chloro-2,6-dimethyl-phenoxy)-6-methyl-nicotinic acid methyl ester | 26.45 mmol, 9.000 g | COC(C1=C(N=C(C=C1Cl)C)OC1=C(C=C(C=C1C)Cl)C)=O | C16H15Cl2NO3
reactant | (S)-2-amino-1-butanol | 12.7 ml | N[C@H](CO)CC | C4H11NO
solvent | 1-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-Chloro-2,6-dimethyl-phenoxy)-4-(1-hydroxymethyl-propylamino)-6-methyl-nicotinic acid methyl ester | 6.6839 g, 64% | COC(C1=C(N=C(C=C1NC(CC)CO)C)OC1=C(C=C(C=C1C)Cl)C)=O | C20H25ClN2O4
